US06326369B1
1-[2-(1,2,3,4-Tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethyl]-1H-benzotriazole
To a suspension of sodium hydride (60% oil dispersion, 230 mg) in THF (6 ml) was added a solution of 1,2,3-benzotriazole (680 mg) in THF(6 ml) with cooling with ice. The reaction mixture was warmed to room temperature and stirred at ambient temperature for 30 min. 7-(2-Iodoethyl)-1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cycloheptene (1.20 g) was added and the stirring was continued for 12 hr. The reaction mixture was heated under reflux for 6 hr, diluted with water, and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was purified by alumina column chromatography(hexane to hexane:ethyl acetate=4:1) and then with recrystallization from hexane-ethyl acetate to obtain the entitled compound (920 mg).

reactant | sodium hydride | 230 mg | [H-].[Na+]
reactant | 1,2,3-benzotriazole | 680 mg | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | 7-(2-Iodoethyl)-1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cycloheptene | 1.20 g | ICCC1CCC2=C(CC1)C(=C(C(=C2OC)OC)OC)OC | C17H25IO4
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-[2-(1,2,3,4-Tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethyl]-1H-benzotriazole | 920 mg | COC1=C(C(=C(C2=C1CCC(CC2)CCN2N=NC1=C2C=CC=C1)OC)OC)OC | C23H29N3O4
